US04255436
2-oxo-4,5,5-trimethyl-3-thiazoline-oxime was reacted with cyclobutyl isocyanate as described in Example 4 to yield 2-oxo-4,5,5-trimethyl-3-thiazoline-O-(cyclobutylcarbamoyl)-oxime, m.p. 94°-96° C.

reactant | 2-oxo-4,5,5-trimethyl-3-thiazoline-oxime | N(O)=C1SC(C(=N1)C)(C)C | C6H10N2OS
reactant | cyclobutyl isocyanate | C1(CCC1)N=C=O | C5H7NO
product | 2-oxo-4,5,5-trimethyl-3-thiazoline-O-(cyclobutylcarbamoyl)-oxime | C1(CCC1)NC(=O)ON=C1SC(C(=N1)C)(C)C | C11H17N3O2S
